US08648066B2
A solution of tert-butyl 3-amino-5-bromopyridin-2-ylcarbamate (96.3 mg, 0.33 mmol) and diisopropylethylamine (128 uL, 074 mmol) in dichloromethane (2 mL) was cooled to 0° C., and to it was added methanesulfonyl chloride (52 uL, 0.67 mmol). The mixture was allowed to warm to rt over 2 h. The mixture was then diluted with dichloromethane and was then washed with aqueous citric acid (10%) followed by water. The organic phase was then dried over magnesium sulfate, filtered, and concentrated in vacuo. The residue was purified by flash chromatography (gradient, 100% hexanes to 70% hexanes:30% ethyl acetate) to provide tert-butyl 5-bromo-3-(N-(methylsulfonyl)methylsulfonamido)pyridin-2-ylcarbamate (77 mg, 0.17 mmol, 52% yield) as a colorless film. 1H NMR (400 MHz, CDCl3) δ 8.64 (d, 1H), 7.79 (d, 1H), 7.10 (s, 1H), 3.44 (s, 6H), 1.52 (s, 9H); MS (EI) for C12H18BrN3O6S2: 388, 390 (Br isotopes, MH+-t-butyl).

reactant | tert-butyl 3-amino-5-bromopyridin-2-ylcarbamate | 0.33 mmol, 96.3 mg | NC=1C(=NC=C(C1)Br)NC(OC(C)(C)C)=O | C10H14BrN3O2
reactant | diisopropylethylamine | 128 uL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methanesulfonyl chloride | 0.67 mmol, 52 uL | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | tert-butyl 5-bromo-3-(N-(methylsulfonyl)methylsulfonamido)pyridin-2-ylcarbamate | 0.17 mmol, 77 mg, 52% yield | BrC=1C=C(C(=NC1)NC(OC(C)(C)C)=O)N(S(=O)(=O)C)S(=O)(=O)C | C12H18BrN3O6S2
